US06713474B2
In a similar manner to Example 10 a mixture of 4-[4-(4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]benzaldehyde (336 mg), and morpholine (146 mg) were reacted to give 5-[4-(4-morpholinomethylphenoxy)-phenyl]-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, m.p 142-144° C.

reactant | 4-[4-(4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]benzaldehyde | 336 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(OC1=CC=C(C=O)C=C1)C=C2)C2COCC2 | C23H20N4O3
reactant | morpholine | 146 mg | N1CCOCC1 | C4H9NO
product | 5-[4-(4-morpholinomethylphenoxy)-phenyl]-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | O1CCN(CC1)CC1=CC=C(OC2=CC=C(C=C2)C2=CN(C=3N=CN=C(C32)N)C3COCC3)C=C1 | C27H29N5O3
